US08431604B2
165.2 1-(8-fluorochinoline-4-yl)ethanone
1.3 g (4.4 mmol) 8-fluorochinoline-4-yl trifluoromethane sulfonate, 153 mg tetrakistriphenylphosphine palladium and 600 mg LiCl were suspended in a baked flask under protective gas in 30 ml dioxane, 1.6 g (4.43 mmol) (1-ethoxyvinyl)-tributylstannane was added, the mixture was heated for 2 hours at reflux. The mixture was diluted with dichloromethane, was washed with water, was dried (MgSO4) and was concentrated. The residue thus obtained was dissolved in 30 ml THF and, following addition 2 ml 5N HCL, was stirred for 3 hours at room temperature. For workup, the mixture was adjusted with saturated NaHCO3 solution to pH 11, was extracted with dichloromethane, the combined organic phases were washed with saturated NaCl solution and were dried with MgSO4. Purification by chromatography on silica gel (dichloromethane) yielded 700 mg; ESI-MS [M+H+]=190.05.

reactant | 8-fluorochinoline-4-yl trifluoromethane sulfonate | 4.4 mmol, 1.3 g | FC(S(=O)(=O)OC1=CC=NC2=C(C=CC=C12)F)(F)F | C10H5F4NO3S
reactant | LiCl | 600 mg | [Li+].[Cl-]
reactant | (1-ethoxyvinyl)-tributylstannane | 4.43 mmol, 1.6 g | C(C)OC(=C)[Sn](CCCC)(CCCC)CCCC
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 1-(8-fluorochinoline-4-yl)ethanone | FC=1C=CC=C2C(=CC=NC12)C(C)=O | C11H8FNO
